US07666868B2
D4. (E)-3-[1-(4-Bromo-benzenesulfonyl)-1H-pyrrol-3-yl]-acrylic acid tertbutyl ester
A mixture of 0.85 g NaH with 70.0 ml THF is cooled to −30° C. and 5.0 g (E)-3-(1H-pyrrol-3-yl)-acrylic acid tert-butyl ester are added. During the addition there is liberated a gas. The solution is stirred at ambient temperature for 0.5 h. Then 7.9 g 4-bromobenzenesulfonylchloride is added by -30° C. The suspension is stirred at ambient temperature for 3 h. The mixture is treated with water and then it is extracted with ethyl acetate. The title compound is isolated by flash chromatography. By this method 7.0 g of a colorless solid are obtained.

reactant | NaH | 0.85 g | [H-].[Na+]
reactant | THF | 70.0 ml | C1CCOC1 | C4H8O
reactant | (E)-3-(1H-pyrrol-3-yl)-acrylic acid tert-butyl ester | 5.0 g | C(C)(C)(C)OC(\C=C\C1=CNC=C1)=O | C11H15NO2
reactant | 4-bromobenzenesulfonylchloride | 7.9 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | water | O | H2O
product | (E)-3-[1-(4-Bromo-benzenesulfonyl)-1H-pyrrol-3-yl]-acrylic acid tertbutyl ester | C(C)(C)(C)OC(\C=C\C1=CN(C=C1)S(=O)(=O)C1=CC=C(C=C1)Br)=O | C17H18BrNO4S
